US05399703
Step 2 N-[2-[2-Cyanophenoxy]phenyl]-4-hexyloxybenzamide
In 20 ml of ether was dissolved 2.0 g of 2-(2-aminophenoxy)benzonitrile followed by addition of 2.04 g of triethylamine. Then, with ice-cooling and stirring, a solution of 2.67 g of 4-hexyloxybenzoyl chloride in 5 ml of ether was added dropwise. The mixture was further stirred at the same temperature for 1 hour. The reaction mixture was then washed with diluted hydrochloric acid and aqueous sodium hydrogen carbonate solution in that order, dried and concentrated. The residue was purified by silica gel column chromatography using ethyl acetate-n-hexane as the eluent and the relevant fraction was crystallized from diisopropyl ether to give 3.05 g of the title compound as white crystals.

reactant | 2-(2-aminophenoxy)benzonitrile | 2.0 g | NC1=C(OC2=C(C#N)C=CC=C2)C=CC=C1 | C13H10N2O
reactant | triethylamine | 2.04 g | C(C)N(CC)CC | C6H15N
reactant | 4-hexyloxybenzoyl chloride | 2.67 g | C(CCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C13H17ClO2
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | N-[2-[2-Cyanophenoxy]phenyl]-4-hexyloxybenzamide | 3.05 g | C(#N)C1=C(OC2=C(C=CC=C2)NC(C2=CC=C(C=C2)OCCCCCC)=O)C=CC=C1 | C26H26N2O3
